US06693123B2
N-[4-(2-(4-(3,5-Difluorobenzyl)oxypyridin-3-yl)ethenyl)-2-(2-methylphenyl)benzoyl]methionine Sodium Salt
N-[4-(2-(4-chloropyridin-3-yl)ethenyl)-2-(2-methylphenyl)benzoyl]methionine methyl ester, prepared as in Example 1040, (27 mg, 0.05 mmol) was dissolved in DMF (1 mL) with 3,5-difluorobenzyl alcohol (0.1 mL) and treated with NaH (60% in mineral oil, 6.5 mg, 0.16 mmol). After stirring 18 hours at ambient temperature, the reaction was evaporated and lyophilized from water to provide 29 mg of the title compound. MS m/e 589 (M+H)+.

reactant | N-[4-(2-(4-chloropyridin-3-yl)ethenyl)-2-(2-methylphenyl)benzoyl]methionine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)C=CC=1C=NC=CC1Cl)C1=C(C=CC=C1)C)=O)CCSC)=O | C27H27ClN2O3S
reactant | NaH | 0.16 mmol, 6.5 mg | [H-].[Na+]
reactant | 3,5-difluorobenzyl alcohol | 0.1 mL | FC=1C=C(CO)C=C(C1)F | C7H6F2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-[4-(2-(4-(3,5-Difluorobenzyl)oxypyridin-3-yl)ethenyl)-2-(2-methylphenyl)benzoyl]methionine Sodium Salt | 29 mg | [Na+].FC=1C=C(COC2=C(C=NC=C2)C=CC2=CC(=C(C(=O)N[C@@H](CCSC)C(=O)[O-])C=C2)C2=C(C=CC=C2)C)C=C(C1)F | InChI=1S/C33H30F2N2O4S.Na/c1-21-5-3-4-6-27(21)29-17-22(8-10-28(29)32(38)37-30(33(39)40)12-14-42-2)7-9-24-19-36-13-11-31(24)41-20-23-15-25(34)18-26(35)16-23;/h3-11,13,15-19,30H,12,14,20H2,1-2H3,(H,37,38)(H,39,40);/q;+1/p-1/t30-;/m0./s1
